US05688946
A solution of 2.82 g (about 3.8 mmol) of crude (S)-α-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]-1-Boc-imidazole-4-propionamide and 0.35 g (2.55 mmol) of potassium carbonate in 20 ml of methanol is stirred at room temperature under argon for 1 hour. Thereafter, 0.33 g (6.1 mmol) of ammonium chloride is added and the mixture is stirred at room temperature for a further 15 minutes. The reaction mixture is subsequently evaporated under reduced pressure, the residue is taken up in 60 ml of ethyl acetate and this solution is washed in succession with 30 ml of water and 30 ml of saturated sodium chloride solution. The aqueous phases are back-extracted twice with 60 ml of ethyl acetate. The combined organic phases are dried over sodium sulphate and evaporated under reduced pressure. The residue is triturated in 15 ml of ether, then filtered off under suction and, for further purification, chromatographed on 150 g of silica gel using a 4:1:0.1 mixture of methylene chloride, methanol and ammonia as the eluent. There are obtained 1.13 g of (S)-α-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]-imidazole-4-propionamide as a colourless solid; MS: 631 (M+H)+.

reactant | (S)-α-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]-1-Boc-imidazole-4-propionamide | about 3.8 mmol, 2.82 g | C(C)(C)(C)S(=O)(=O)C[C@H](C(=O)N[C@H](C(=O)N[C@H]([C@H]([C@@H](O)C1CC1)O)CC1CCCCC1)CC=1N=CN(C1)C(=O)OC(C)(C)C)CC1=CC=CC=C1 | C38H58N4O8S
reactant | potassium carbonate | 2.55 mmol, 0.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | 6.1 mmol, 0.33 g | [Cl-].[NH4+]
solvent | methanol | 20 ml | CO | CH4O
product | (S)-α-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]-imidazole-4-propionamide | 1.13 g | C(C)(C)(C)S(=O)(=O)C[C@H](C(=O)N[C@H](C(=O)N[C@H]([C@H]([C@@H](O)C1CC1)O)CC1CCCCC1)CC=1N=CNC1)CC1=CC=CC=C1 | C33H50N4O6S
